US07138410B2
N-(4′-Methylsulfanyl-1,1′-biphenyl-4-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride
90 mg (0.26 mmol) of N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride, 50 mg (0.31 mmol) of 4-(methylsulfanyl)phenylboronic acid, 190 mg (0.57 mmol) of cesium carbonate and 20 mg (0.03 mmol) of bis(diphenylphosphino)ferrocenepalladium(II) chloride are reacted in 1 ml of 1,2-dimethoxyethane by the general method. 21.6 mg (21% of theory) of the title compound are obtained.

reactant | N-(4-bromophenyl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | 0.26 mmol, 90 mg | Cl.BrC1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2
reactant | 4-(methylsulfanyl)phenylboronic acid | 0.31 mmol, 50 mg | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
reactant | cesium carbonate | 0.57 mmol, 190 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,2-dimethoxyethane | 1 ml | COCCOC | C4H10O2
product | N-(4′-Methylsulfanyl-1,1′-biphenyl-4-yl)-1-azabicyclo[2.2.2]octane-3-carboxamide hydrochloride | Cl.CSC1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1CN2CCC1CC2 | InChI=1S/C21H24N2OS.ClH/c1-25-19-8-4-16(5-9-19)15-2-6-18(7-3-15)22-21(24)20-14-23-12-10-17(20)11-13-23;/h2-9,17,20H,10-14H2,1H3,(H,22,24);1H
